US06479506B1
A mixture of 3-(2-fluorophenyl)-5-hydroxy-6-bromo-1,2,3-triazolo[4,5-b]pyridine (0.91 g, 2.94 mmol), 2-methyl-3-chloromethyl-1,2,4-triazole (0.46 g, 3.53 mmol) and caesium carbonate (1.40 g, 4.29 mmol) in dry DMF (15 ml) was stirred at room temperature under nitrogen for 18 h. The mixture was poured into water (150 ml) and extracted with ethyl acetate (2×100 ml). The extracts were dried (Na2SO4), filtered and concentrated. Flash column chromatography on silica gel, eluting with 4% methanol-dichloromethane, gave 3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-6-bromo-1,2,3-triazolo[4,5-b]pyridine (1.05 g, 88%) as a beige solid. δH (360 MHz; CDCl3) 3.96 (3H, s), 5.59 (2H, s), 7.37-7.43 (2H, m), 7.56-7.64 (1H, m), 7.68 (1H, dd, J=7 and 7), 7.87 (1H, s) and 8.62 (1H, s); m/z (ES+) 404, 406 (M+H+).

reactant | 3-(2-fluorophenyl)-5-hydroxy-6-bromo-1,2,3-triazolo[4,5-b]pyridine | 2.94 mmol, 0.91 g | FC1=C(C=CC=C1)N1N=NC=2C1=NC(=C(C2)Br)O | C11H6BrFN4O
reactant | 2-methyl-3-chloromethyl-1,2,4-triazole | 3.53 mmol, 0.46 g | CN1N=CN=C1CCl | C4H6ClN3
reactant | caesium carbonate | 4.29 mmol, 1.40 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 150 ml | O | H2O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 3-(2-fluorophenyl)-5-(2-methyl-2H-1,2,4-triazol-3-ylmethoxy)-6-bromo-1,2,3-triazolo[4,5-b]pyridine | 1.05 g, 88% | FC1=C(C=CC=C1)N1N=NC=2C1=NC(=C(C2)Br)OCC=2N(N=CN2)C | C15H11BrFN7O
